US06410529B1
D9 2-[(2-Bromo-5-methoxyphenylamino)methylene]malonic acid diethyl ester
A mixture of 3-amino-4-bromoanisole (1.40 g) and diethyl ethoxymethylene-malonate (1.4 ml) was heated at 100° C. for 4 h. The reaction mixture was cooled and ethanol removed at reduced pressure to give the title compound as a waxy brown solid (2.55 g).

reactant | 3-amino-4-bromoanisole | 1.40 g | NC=1C=C(C=CC1Br)OC | C7H8BrNO
reactant | diethyl ethoxymethylene-malonate | 1.4 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 2-[(2-Bromo-5-methoxyphenylamino)methylene]malonic acid diethyl ester | 2.55 g | C(C)OC(C(C(=O)OCC)=CNC1=C(C=CC(=C1)OC)Br)=O | C15H18BrNO5
